US09340549B2
A mixture of 4-iodobenzoic acid (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (9.26 g, 37.3 mmol), DIEA (13.05 mL, 74.7 mmol), HATU (7.10 g, 18.67 mmol) and quinolin-8-amine (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (7 g, 48.6 mmol) in DMF (124 mL) was stirred under nitrogen overnight at room temperature. The reaction mixture was diluted with saturated NaHCO3 (100 mL) and water (300 mL) yielding a yellow/brown precipitate which was filtered, washed with water (100 mL) and dried on high vacuum to obtain 4-iodo-N-(quinolin-8-yl)benzamide (9 g, 24.05 mmol, 64.4% yield) as a yellow brown solid. 1H NMR (400 MHz, DMSO-d6) δ=10.65 (s, 1H), 8.98 (dd, J=1.6, 4.3 Hz, 1H), 8.70 (dd, J=1.4, 7.6 Hz, 1H), 8.47 (dd, J=1.7, 8.3 Hz, 1H), 8.03-7.98 (m, 2H), 7.83-7.79 (m, 2H), 7.76 (dd, J=1.3, 8.2 Hz, 1H), 7.71-7.62 (m, 2H).

reactant | 4-iodobenzoic acid | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | DIEA | 74.7 mmol, 13.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 18.67 mmol, 7.10 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | quinolin-8-amine | N1=CC=CC2=CC=CC(=C12)N | C9H8N2
solvent | DMF | 124 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | water | 300 mL | O | H2O
product | 4-iodo-N-(quinolin-8-yl)benzamide | 24.05 mmol, 9 g, 64.4% yield | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
